* ELK Labor SPICE Bibliothek

* M. Meiners, HSB, 2018
.MODEL 1N4001 D ( IS=29.5n RS=73.5E-3 N=1.96 BV=60 IBV=10U VJ=0.627 CJO=34.6P M=0.461 TT=5.7u )
.MODEL 1N4002 D ( IS=76.9p RS=42.0m N=1.45 BV=100 IBV=5.00u CJO=39.8p M=0.333 TT=4.32u )

* Reisch, Springer, 2007
.MODEL DIOD1 D ( IS=1n RS=2.0 N=1.8 VJ=0.5 BV=40 )
.MODEL DIOD2 D ( IS=1f RS=2.0 N=1.0 VJ=0.5 BV=40 )
.MODEL DIOD3 D ( IS=1e-12 RS=1.0 N=1.1 CJO=10p VJ=1.0 M=0.0 TT=5n BV=50)

* On-Semi
.model 1N750 D (Is=.88f Rs=.25 Cjo=175p M=.55 nbv=1.7 bv=4.7 Vj=.75 Isr=1.86n Nr=2 Ibv=20.245m)
.model DZ39 D (Is=.88f Rs=.25 Cjo=175p M=.55 nbv=1.7 bv=3.9 Vj=.75 Isr=1.86n Nr=2 Ibv=20.245m)
.MODEL ZD39 D ( IS=1n RS=2.0  N=1.8 BV=3.9 )
.MODEL ZD47 D ( IS=1n RS=2.0  N=1.8 BV=4.7 )
.MODEL ZD68 D ( IS=1n RS=2.0  N=1.8 BV=6.8 )

* Sample standard device library
* Copyright Cadence Design Systems, Inc. 2002 All Rights Reserved.
* $Revision:   1.4  $
* $Author:   HIRASUNA  $
* $Date:   11 May 2000 13:26:32  $
*
*** Switching Diodes ***
.model D1N4148 D (Is=2.682n N=1.836 Rs=.5664 Ikf=44.17m Xti=3 Eg=1.11
+                 Cjo=4p M=.3333 Vj=.5 Fc=.5 Isr=1.565n Nr=2 Bv=100 Ibv=100u Tt=11.54n)
*** General Purpose Fast Rectifier ***
.model D1N914 D (Is=168.1E-21 N=1 Rs=.1 Ikf=0 Xti=3 Eg=1.11
+                Cjo=4p M=.3333 Vj=.75 Fc=.5 Isr=100p Nr=2 Bv=100 Ibv=100u Tt=11.54n)


* Motorola
* Semiconductor Databook (mid 1970s)
* 03 Jun 91	pwt	creation
.model D1N4001 D (Is=14.11n N=1.984 Rs=33.89m Ikf=94.81 Xti=3 Eg=1.11
+                 Cjo=25.89p M=.44 Vj=.3245 Fc=.5 Bv=75 Ibv=10u Tt=5.7u)

* Reisch, Springer, 2007
.MODEL BIPO NPN ( IS=10f BF=250 VAF=25 BR=6 RB=10 RE=0.5 RC=2 )
.MODEL BJTE1 NPN ( IS=10f VAF=50 BF=250 BR=6 RB=10 CJC=10p MJC=0.4 VJC=0.8 CJE=20p MJE=0.4 VJE=0.9 TF=500p TR=50n )
.MODEL BJTE2 NPN ( IS=10f VAF=30 BF=200 BR=6 RC=1 RB=10 CJC=10p MJC=0.35 VJC=0.75 CJE=20p MJE=0.4 VJE=0.75 TF=500p )
.MODEL BJTE3 NPN ( IS=1f VAF=20 BF=200 CJE=2P MJE=0.4 CJC=1P VJC=0.9 MJC=0.45 TF=0.4N )
.MODEL BJTHV NPN ( IS=5f VAF=130 BF=200 BR=2 RB=200 RC=200 RE=2 CJC=0.3p
+            MJC=0.5 VJC=0.55 CJE=1p MJE=0.33 VJE=0.7 CJS=3p MJS=0.5 VJS=0.52 TF=0.35n TR=400n )

* Gray, Meyer
* npn 44V, A_E=900um2
.MODEL BJTGMN NPN ( IS=5f VAF=130 BF=200 BR=2 RB=200 RC=200 RE=2 CJC=0.3p
+             MJC=0.5 VJC=0.55 CJE=1p MJE=0.33 VJE=0.7 CJS=3p MJS=0.5 VJS=0.52 TF=0.35n TR=400n )
* pnp 44V, A_E=5100um2
.MODEL BJTGMP PNP ( IS=10f VAF=50 BF=50 BR=4 RB=150 RC=50 RE=2 CJC=2p
+             MJC=0.5 VJC=0.52 CJE=0.5p MJE=0.5 VJE=0.55 CJS=3p MJS=0.5 VJS=0.58 TF=20n TR=2u )

* ZETEX  2N2222A Spice model   Last revision 9/12/92
.MODEL Q2N2222A/ZTX NPN (IS =3.0611E-14 NF =1.00124 BF =220 IKF=0.52
+              VAF=104 ISE=7.5E-15 NE =1.41 NR =1.005 BR =4 IKR=0.24
+              VAR=28 ISC=1.06525E-11 NC =1.3728 RB =0.13 RE =0.22
+              RC =0.12 CJC=9.12E-12 MJC=0.3508 VJC=0.4089
+              CJE=27.01E-12 TF =0.325E-9 TR =100E-9
+              BVcbo=10 BVbe=10)

* National	pid=63		case=TO18
* 88-09-09 bam	creation
.model Q2N2907A PNP (Is=650.6E-18 Xti=3 Eg=1.11 Vaf=115.7 Bf=231.7 Ne=1.829
+		Ise=54.81f Ikf=1.079 Xtb=1.5 Br=3.563 Nc=2 Isc=0 Ikr=0 Rc=.715
+		Cjc=14.76p Mjc=.5383 Vjc=.75 Fc=.5 Cje=19.82p Mje=.3357 Vje=.75
+		Tr=111.3n Tf=603.7p Itf=.65 Vtf=5 Xtf=1.7 Rb=10
+               BVcbo=10 BVbe=10)

* ON-SEMI 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 07, 01
* MODEL FORMAT: SPICE3
.MODEL Q2N3904 npn (IS=1.26532e-10 BF=206.302 NF=1.5 VAF=1000
+             IKF=0.0272221 ISE=2.30771e-09 NE=3.31052 BR=20.6302
+             NR=2.89609 VAR=9.39809 IKR=0.272221 ISC=2.30771e-09
+             NC=1.9876 RB=5.8376 IRB=50.3624 RBM=0.634251
+             RE=0.0001 RC=2.65711 XTB=0.1 XTI=1
+             EG=1.05 CJE=4.64214e-12 VJE=0.4 MJE=0.256227
+             TF=4.19578e-10 XTF=0.906167 VTF=8.75418 ITF=0.0105823
+             CJC=3.76961e-12 VJC=0.4 MJC=0.238109 XCJC=0.8
+             FC=0.512134 CJS=0 VJS=0.75 MJS=0.5
+             TR=6.82023e-08 PTF=0 KF=0 AF=1)

* Model generated on Aug 07, 01
* MODEL FORMAT: SPICE3
.MODEL Q2N3906 pnp (IS=7.75521e-12 BF=194.093 NF=1.35509 VAF=156.436
+             IKF=0.0660057 ISE=1.88546e-12 NE=1.81673 BR=3.41317
+             NR=1.5 VAR=5.86061 IKR=1.70599 ISC=7.64281e-10
+             NC=1.92376 RB=6.48961 IRB=0.1 RBM=0.1
+             RE=0.0001 RC=2.45044 XTB=0.1 XTI=1
+             EG=1.05 CJE=6.11928e-12 VJE=0.4 MJE=0.248812
+             TF=5.21843e-10 XTF=0.932702 VTF=9.1046 ITF=0.0106472
+             CJC=6.85007e-12 VJC=0.4 MJC=0.279018 XCJC=0.9
+             FC=0.478887 CJS=0 VJS=0.75 MJS=0.5
+             TR=4.30605e-07 PTF=0 KF=0 AF=1)


* Library of PHILIPS Field Effect Transistors
* $Revision:   1.3  $
* $Author:   hirasuna  $
* $Date:   06 Jul 2001 14:50:26  $
*
* MOSFET n-channel
.SUBCKT BS170/PLP 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 12.3E-12
Cgd1 2 4 27.4E-12
Cgd2 1 4 6E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 3 1 Dbody
.MODEL MOST1 NMOS (Level=3 Kp=20.78u W=9.7m L=2u Rs=20m Vto=2 Rd=1.186)
.MODEL MOST2 NMOS (VTO=-4.73 Kp=20.78u W=9.7m L=2u Rs=20m)
.MODEL Dbody D (Is=125f N=1.023 Rs=1.281 Ikf=18.01 Cjo=46.3p M=.3423 Vj=.4519 Bv=60 Ibv=10u Tt=161.6n)
.ENDS
*
* MOSFET p-channel
* Philips
.SUBCKT BS250/PLP 1 2 3
* 1=drain  2=gate  3=source
Cgs  2 3 20.1E-12
Cgd1 2 4 57.1E-12
Cgd2 1 4 5E-12
M1 1 2 3 3 MOST1
M2 4 2 1 3 MOST2
D1 1 3 Dbody
.MODEL MOST1 PMOS (LEVEL=3 VTO=-2.3 W=7.6m L=2u KP=10.33u RD=4.014 RS=20m)
.MODEL MOST2 PMOS (VTO=2.43 W=7.6m L=2u KP=10.33u RS=20m)
.MODEL Dbody D (CJO=53.22E-12 VJ=0.5392 M=0.3583 IS=75.32E-15 N=1.016 RS=1.245 TT=86.56n BV=45 IBV=10u)
.ENDS

* OP27 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 9/30V, BIP, OP, Low Noise, Low Drift, 1X
* Developed by: JCB / PMI
* Revision History: 08/10/2012 - Updated to new header style
* 3.0 (03/2011) - Corrected CMRR, IVR, Bode plot, PSRR, added substrate PNPs, added PSRR
* 2.0 (12/1990) - Re-ordered subcircuit call out nodes to put the output node last.
*    		- Changed Ios from 7E-9 to 3.5E-9
*   		- Added F1 and F2 to fix short circuit current limit
* Copyright 1990, 2011, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT OP27     1 2 99 50 39
*
* INPUT STAGE & POLE AT 80 MHZ
*
R1   6  99    22.00E3
R2   5  99    22.00E3
CIN  1   2    4E-12
C2   5   6    3.1E-14
IOS  1   2    3.5E-9
EOS  9   1    POLY(3) (73,98) (22,98) (12,0) 20E-6  1 1 1
Q1   6  9  8  QX
Q2   5  2  7  QX
Q1S 50  6a  9  QS
Q2S 50  5a  2  QS
DSH1 6a 6 DSH
DSH2 5a 5 DSH
R5   7   4    2.029E-3
R6   8   4    2.029E-3
Q21 99  5 211 QEF
Q22 99  6 212 QEF
I21 211 50 60E-06
I22 212 50 60E-06
I1   4  50   240E-6
DQ   44  4    DY
Vlcm 44 50    3.2E0
D1   2   1    DX
D2   1   2    DX
*
* GAIN STAGE & DOMINANT POLE AT 4.0 HZ
*
G1   98 20    211 212  6.05E-04
R7   20 98     1.545E+07
C3   20 98     1.20E-09
V1   121 98     12.1; 25
D5   20 121     DX
V2   122 98     -12.4; 25
D6   122 20     DX
*
* POLE - ZERO AT 2.9MHZ / 6MHZ
*
G2   98 23     20 98  1
R8   23 98     1
R9   23 24     0.935
C4   24 98     2.4E-12; 09
*
* ZERO - POLE AT 6.8MHZ / 40MHZ
*
G3   98 25     24 98  1
R210  25 26     1
R211  26 98     4.88
L1   26 98     19.4E-12; 9
*
* POLE AT 60 MHZ
*
G4   98 27     25 98 1
R212  27 98     1
C5   27 98     4.3E-9
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
VN1  11   0   DC 0.8
DN1  11  12   DEN
DN2  12  13   DEN
VN2  0   13   DC 0.8
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
D60 60 0 DN1 1000
I60 0 60 1E-3
D61 61 0 DN4
I61 0 61 1E-6
G60 1 0 61 60 2.476E-05
G61 2 0 61 60 2.476E-05
D62 62 0 DN3
I62 0 62 1E-6
G62 1 2 62 60 3.413E-006
D63 63 0 DN2
I63 0 63 1E-6
*
* CMRR
*
ECM  72 98     POLY(2) (1,98) (2,98)  0  1.125E-02 1.125E-02
R10  72 73     3.183E+02
R20  73 98     7.958E-03
C10  72 73     1.0E-06
*
* PSRR
*
EPS  98 21 POLY(1) (99,50) -5.6786E+01  1.8929E-00
RPS1 21 22 3.183E+07
RPS2 22 98 1.061E+01
CPS3 21 22 1.000E-09
*
R17  33 99     1meg
R18  33 50     1meg
EREF  98 0    33  0  1
GSY  99 50     POLY(1) 99 50 1.669E-3 34.8E-6
*
* OUTPUT STAGE
*
G7   37 50     27 34  7.143E-3
G8   38 50     34 27  7.143E-3
*
G9   34 99     99 27  7.143E-3
R19  34 99     140
G10  50 34     27 50  7.143E-3
R220  34 50     140
*
V3   35 34     1.1
V4   34 36     1.5
D9   20 35     DX
D10  36 20     DX
D11  99 37     DX
D12  99 38     DX
D13  50 37     DY
D14  50 38     DY
L3   34 39     1E-7; 39 is output pin
*
* MODELS USED
*
.MODEL QX  NPN(IS=1E-16, BF=8.0E+3, BR=10)
.MODEL QEF NPN(BF=1.0E+2)
.MODEL QS  PNP(IS=1E-11, BF=2.0E+2, RC=1)
.MODEL DX   D(IS=1E-15)
.MODEL DY   D(IS=1E-15 BV=50)
.MODEL DSH  D(IS=1E-9 BV=50); N=1.05 EG=0.59)
.MODEL DEN  D(IS=1E-12, RS=0.59K, KF=2.85E-16, AF=1)
.MODEL DIN  D(IS=2E-09, RS=1.8E-05, KF=2.4E-16, AF=1)
.MODEL DN1 D IS=1E-16
.MODEL DN2 D IS=1E-16 AF=1 KF=3.086E-017
.MODEL DN3 D IS=1E-16 AF=1 KF=3.086E-017
.MODEL DN4 D IS=1E-16 AF=1 KF=5.09E-017
.MODEL DNOISE D(IS=1E-16,RS=0,KF=3.85E-12)
*
.ENDS


* OP484 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 3/30V, BIP, OP, Low Noise, RRIO, 4X
* Developed by: ARG / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (11/1995)
* Copyright 1993, 2012 by Analog Devices
*
* Refer to
* http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html
* for License Statement.
* Use of this model indicates your acceptance of the terms and provisions in the License Statement.
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT OP484    1  2  99 50 45
*
* INPUT STAGE
*
Q1   5    2    3    QIN 1
Q2   6    11   3    QIN 1
Q3   7    2    4    QIP 1
Q4   8    11   4    QIP 1
DC1  2    11   DC
DC2  11   2    DC
Q5   4    9    99   QIP 1
Q6   9    9    99   QIP 1
Q7   3    10   50   QIN 1
Q8   10   10   50   QIN 1
R1   99   5    4E3
R2   99   6    4E3
R3   7    50   4E3
R4   8    50   4E3
IREF 9    10   50.5E-6
EOS  1    11   POLY(2) (22,98) (14,98) -25E-6 1E-2 1
IOS  2    1    1E-9
CIN  1    2    2E-12
*GN1  98   1    (17,98) 1E-3
GN1  98   1  17  98  1E-3
*GN2  98   2    (23,98) 1E-3
GN2  98   2  23  98  1E-3
*
* VOLTAGE NOISE SOURCE WITH FLICKER NOISE
*
VN1  13   98   DC 2
VN2  98   15   DC 2
DN1  13   14   DEN
DN2  14   15   DEN
*
* CURRENT NOISE SOURCE WITH FLICKER NOISE
*
VN3  16   98   DC 2
VN4  98   18   DC 2
DN3  16   17   DIN
DN4  17   18   DIN
*
* 2ND CURRENT NOISE SOURCE WITH FLICKER NOISE
*
VN5  19   98   DC 2
VN6  98   24   DC 2
DN5  19   23   DIN
DN6  23   24   DIN
*
* GAIN STAGE
*
EREF 98   0    POLY(2) (99,0) (50,0) 0 0.5 0.5
G1   98   20   POLY(2) (6,5) (8,7) 0 0.5E-3 0.5E-3
R9   20   98   1E3
*
* COMMON MODE STAGE WITH ZERO AT 100HZ
*
ECM  98   21   POLY(2) (1,98) (2,98) 0 0.5 0.5
R10  21   22   1
R11  22   98   100E-6
C4   21   22   1.592E-3
*
* NEGATIVE ZERO AT 20MHZ
*
*E1   27   98   (20,98) 1E6
E1   27   98  20 98  1E6
R17  27   28   1
R18  28   98   1E-6
C8   25   26   7.958E-9
*ENZ  25   98   (27,28) 1
ENZ  25   98  27 28  1
VNZ  26   98   DC 0
FNZ  27   28   VNZ -1
*
* POLE AT 40MHZ
*
*G4   98   29   (28,98) 1
G4   98   29  28 98  1
R19  29   98   1
C9   29   98   3.979E-9
*
* POLE AT 40MHZ
*
*G5   98   30   (29,98) 1
G5   98   30  29  98  1
R20  30   98   1
C10  30   98   3.979E-9
*
* OUTUT STAGE
*
ISY  99   50   0.276E-3
GIN  50   31   POLY(1) (30,98) .862574E-6 505.879E-6
RIN  31   50   2.75E6
VB   99   32   0.7
Q11  32   31   33   QON 1
R21  33   34   4.5E3
I1   34   50   50E-6
R22  99   35   6E3
Q12  36   36   35   QOP 1
I2   36   50   50E-6
R23  99   37   2.6E3
R24  34   38   5E3
Q13  39   36   37   QOP 1
Q14  39   38   40   QON 1.5
R25  40   50   40
Q15  39   39   41   QON 1
R26  41   42   1E3
R27  99   43   220
Q16  44   44   43   QOP 1.5
Q17  44   39   42   QON 1
R28  42   50   2E3
VSCP 99   97   DC 0.088
FSCP 46   99   VSCP 1
RSCP 46   99   40
Q20  44   46   99   QOP 1
Q18  45   44   97   QOP 4.5
Q19  45   34   51   QON 4.5
VSCN 51   50   DC 0.081
FSCN 50   47   VSCN 1
RSCN 47   50   40
Q21  34   47   50   QON 1
CC2  31   45   20E-12
CF1  31   34   15E-12
CF2  31   42   15E-12
CO1  34   45   15E-12
CO2  42   45   5E-12
D3   45   99   DX
D4   50   45   DX
.MODEL DC D (IS=130E-21)
.MODEL DX D ()
.MODEL DEN D (RS=100 KF=12E-15 AF=1)
.MODEL DIN D (RS=5.358 KF=56E-15 AF=1)
.MODEL QIN NPN (BF=120 VA=200 IS=0.5E-16)
.MODEL QIP PNP (BF=90 VA=60 IS=0.5E-16)
.MODEL QON NPN (BF=200 VA=200 IS=0.5E-16 RC=50)
.MODEL QOP PNP (BF=200 VA=200 IS=0.5E-16 RC=160)
.ENDS


* STM LM324 macro model
*
* WARNING : please consider following remarks before usage
*
* 1) All models are a tradeoff between accuracy and complexity (ie. simulation
*    time).
* 2) Macromodels are not a substitute to breadboarding, they rather confirm the
*    validity of a design approach and help to select surrounding component values.
*
* 3) A macromodel emulates the NOMINAL performance of a TYPICAL device within
*    SPECIFIED OPERATING CONDITIONS (ie. temperature, supply voltage, etc.).
*    Thus the macromodel is often not as exhaustive as the datasheet, its goal
*    is to illustrate the main parameters of the product.
*
* 4) Data issued from macromodels used outside of its specified conditions
*    (Vcc, Temperature, etc) or even worse: outside of the device operating
*    conditions (Vcc, Vicm, etc) are not reliable in any way.
*
*
** Standard Linear Ics Macromodels, 1993.
** CONNECTIONS :
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY
* 5 NEGATIVE POWER SUPPLY
.SUBCKT LM324 2 1 4 5 3
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.600000E+01
RIN 15 16 2.600000E+01
RIS 11 15 2.003862E+02
DIP 11 12 MDTH 
* 400E-12
DIN 15 14 MDTH 
* 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.000000E-05
CPS 11 15 3.783376E-09
DINN 17 13 MDTH 
* 400E-12
VIN 17 5 0.000000e+00
DINR 15 18 MDTH 
* 400E-12
VIP 4 18 2.000000E+00
FCP 4 5 VOFP 3.400000E+01
FCN 5 4 VOFN 3.400000E+01
FIBP 2 5 VOFN 2.000000E-03
FIBN 5 1 VOFP 2.000000E-03
* AMPLIFYING STAGE
FIP 5 19 VOFP 3.600000E+02
FIN 5 19 VOFN 3.600000E+02
RG1 19 5 3.652997E+06
RG2 19 4 3.652997E+06
CC 19 5 6.000000E-09
DOPM 19 22 MDTH 
* 400E-12
DONM 21 19 MDTH 
* 400E-12
HOPM 22 28 VOUT 7.500000E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 7.500000E+03
VINM 5 27 1.500000E+02
EOUT 26 23 19 5 1
VOUT 23 5 0
ROUT 26 3 20
COUT 3 5 1.000000E-12
DOP 19 25 MDTH 
* 400E-12
VOP 4 25 2.242230E+00
DON 24 19 MDTH 
* 400E-12
VON 24 5 7.922301E-01
***************************
.MODEL MDTH D (IS=1E-8 KF=3.104131E-15 CJO=10F)
***************************
.ENDS LM324



* TL082 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* ------------------------------------------------------------------------
*|(C) Copyright Texas Instruments Incorporated 2007. All rights reserved. |
*|                                                                        |
*|This Model is designed as an aid for customers of Texas Instruments.    |
*|No warranties, either expressed or implied, with respect to this Model  |
*|or its fitness for a particular purpose is claimed by Texas Instruments |
*|or the author.  The Model is licensed solely on an "as is" basis.  The  |
*|entire risk as to its quality and performance is with the customer.     |
* ------------------------------------------------------------------------
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL082    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D (IS=800.0E-18)
.MODEL JX PJF (IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS


* OPAMP MACRO MODEL, SINGLE-POLE
* Copyright © Linear Technology Corp. 1998, 1999, 2000.  All rights reserved.
* modified by M. Meiners for ngspice, HSB, 2016
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   output
*                 |   |   |
.SUBCKT OPAMPLT  1   2   3 Aol=100k GBW=10Meg
.param C3='Aol/GBW/6.28318530717959'
G1 0 3 2 1 {Aol}
R3 3 0 1.
C3 3 0 {C3}
.ends opamp


* OPAMP MACRO MODEL, SINGLE-POLE WITH 15V OUTPUT CLAMP
* eCircuit Center
* Have a look at http://www.ecircuitcenter.com for further description.
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   output
*                   |   |   |
.SUBCKT OPAMPCC     1   2   6
* INPUT IMPEDANCE
RIN	1	2	10MEG
* DC GAIN=100K AND POLE1=100HZ
* UNITY GAIN = DCGAIN X POLE1 = 10MHZ
EGAIN	3 0	1 2	100K
RP1		3	4	100K
CP1		4	0	0.0159U
* ZENER LIMITER
D1	4	7	DZLIM
D2	0	7	DZLIM
* OUTPUT BUFFER AND RESISTANCE
EBUFFER	5 0	4 0	1
ROUT	5	6	10
*
* ZENER TO LIMIT OPAMP OUTPUT SWING (+/- 15v)
.model	DZLIM D (Is=0.05u Rs=0.1 Bv=14.3 Ibv=0.05u)
.ENDS
*
* ZENER TO LIMIT COMPARATOR OUTPUT SWING
.model	DZ1	D (Is=0.05u Rs=0.1 Bv=0.3 Ibv=0.05u)
*

* OPAMP Macro model
* Elektronische Bauelemente, Reisch, 2007, Kap. 6.5
* Burr Brown Application Bulletin Number 20. Spice Based Macromodels.
* https://www.ti.com/lit/an/sbfa009/sbfa009.pdf
*
.SUBCKT OPAMPBB INP INN 3 4 5
C1 11 12 8.660E-12
C2 6 7 30.00E-12
DC 5 53 DX
DE 54 5 DX
DLP 90 91
DLN 92 90
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 0.5 0.5
FB 7 99 POLY(5) VB VC VE VLP VLN
+ 0 70.20E6 -70E6 70E6 70E6 -70E6
GA 6 0 11 12 320.4E-6
GCM 0 6 10 99 2.022E-9
IEE 10 4 DC 30.05E-6
HLIM 90 0 VLIM 1K
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 3 11 3.121E3
RC2 3 12 3.121E3
RE1 13 10 1.394E3
RE2 14 10 1.394E3
REE 10 99 6.656E6
RO1 8 5 25
RO2 7 99 25
VB 9 0 DC 0
VC 3 53 DC 2.500
VE 54 4 DC 2.500
VLIM 7 8 DC 0
VLP 91 0 DC 10
VLN 0 92 DC 10
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0
FQ1 3 0 POLY(1) VQ1 2.136E-3 1
FQ2 0 4 POLY(1) VQ2 2.136E-3 -1
RQ 3 4 4.5E4
CDIF 1 2 3.0E-12
C1CM 1 99 1.5E-12
C2CM 2 99 1.5E-12
R1IN INP 1 1000
D1IN 1 2 DX
R2IN INN 2 1000
D2IN 2 1 DX
*****************************
.MODEL DX D (IS=800.0E-18)
.MODEL QX NPN (IS=800.0E-18 BF=600)
*****************************
.ENDS

